### PR TITLE
[Merged by Bors] - feat (Data/Matrix/Blocks): simp lemmas for toBlocks of diagonal matrices

### PR DESCRIPTION
**Pull request by MohanadAhmed**
Lemmas `toBlocks₁₁_diagonal`, `toBlocks₂₂_diagonal`, `toBlocks₁₂_diagonal`, `toBlocks₂₁_diagonal` to make dealing with sub blocks of diagonal matrices a bit easier

Useful for PR #6042 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Block.lean [hunk 1]
```diff
@@ -300,6 +300,26 @@ theorem fromBlocks_diagonal (d₁ : l → α) (d₂ : m → α) :
   rcases i with ⟨⟩ <;> rcases j with ⟨⟩ <;> simp [diagonal]
 #align matrix.from_blocks_diagonal Matrix.fromBlocks_diagonal
 
+@[simp]
+lemma toBlocks₁₁_diagonal (v : l ⊕ m → α) :
+    toBlocks₁₁ (diagonal v) = diagonal ( fun i => v (Sum.inl i) ) := by
```
Comment (alexjbest) [inline Mathlib/Data/Matrix/Block.lean:305]:
```suggestion
    toBlocks₁₁ (diagonal v) = diagonal (fun i => v (Sum.inl i)) := by
```

File: Mathlib/Data/Matrix/Block.lean [hunk 2]
```diff
@@ -300,6 +300,26 @@ theorem fromBlocks_diagonal (d₁ : l → α) (d₂ : m → α) :
...
+  unfold toBlocks₁₁
+  funext i j
+  simp only [ne_eq, Sum.inl.injEq, of_apply, diagonal_apply]
+
+@[simp]
+lemma toBlocks₂₂_diagonal (v : l ⊕ m → α) :
+    toBlocks₂₂ (diagonal v) = diagonal ( fun i => v (Sum.inr i) ) := by
```
Comment (alexjbest) [inline Mathlib/Data/Matrix/Block.lean:312]:
```suggestion
    toBlocks₂₂ (diagonal v) = diagonal (fun i => v (Sum.inr i)) := by
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
